US07132551B2
Synthesis of 1-(4-Fluorophenyl)cyclobutanecarbonitrile (65)
A solution of 3.00 g (22.2 mmol) of 4-fluorophenylacetonitrile and 4.93 g (24.4 mmol) of 1,3-dibromopropane in 15 mL of ether was added dropwise into 1.17 g (48.8 mmol) of NaH in 60 mL of DMSO. The temperature was held between 25° and 35° by water bath cooling. The mixture was stirred at room temperature for 18 hours. The mixture was cooled in ice water and 3 mL of 2-propanol was added dropwise, followed by the addition of 50 mL of water. The mixture was extracted with hexane (3×100 mL), and the combined extracts were washed with water (3×75 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated to yield 2.35 g (61%) product as colorless oil. 1H NMR (CDCl3) δ 2.03–2.16 (m, 1H), 2.38–2.53 (m, 1H), 2.58–2.67 (m, 2H), 2.80–2.90 (m, 2H), 7.11 (dd, J=9.0, 8.4 Hz, 2H), 7.41 (dd, J=9.1, 5.1 Hz, 2H). 13C NMR (CDCl3) 17.3, 35.0, 39.9, 116.1 (d, J=21.5 Hz), 124.5, 127.7, 135.9, 162.5 (d, J=230 Hz).

reactant | 4-fluorophenylacetonitrile | 22.2 mmol, 3.00 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | 1,3-dibromopropane | 24.4 mmol, 4.93 g | BrCCCBr | C3H6Br2
reactant | NaH | 48.8 mmol, 1.17 g | [H-].[Na+]
reactant | 2-propanol | 3 mL | CC(C)O | C3H8O
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | 1-(4-Fluorophenyl)cyclobutanecarbonitrile | 2.35 g, 61% | FC1=CC=C(C=C1)C1(CCC1)C#N | C11H10FN
